US09353108B2
B) Methyl 2-(benzyloxy)-5-bromo-4-cyclobutylbenzoate
Sodium bicarbonate (7.51 g) was added to a mixture of methyl 2-(benzyloxy)-4-cyclobutylbenzoate (14 g) and dichloromethane, then a dichloromethane (25 mL) solution of bromine (3.17 mL) was slowly added thereto at 10° C., and the mixture was stirred at the same temperature as above for 1 hour. A saturated aqueous solution of sodium bicarbonate was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium bisulfite and saturated saline and then dried over anhydrous sodium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (12.2 g).

reactant | Sodium bicarbonate | 7.51 g | C([O-])(O)=O.[Na+]
reactant | methyl 2-(benzyloxy)-4-cyclobutylbenzoate | 14 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=CC(=C1)C1CCC1 | C19H20O3
reactant | bromine | 3.17 mL | BrBr | Br2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | Methyl 2-(benzyloxy)-5-bromo-4-cyclobutylbenzoate | 12.2 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C(=C1)C1CCC1)Br | C19H19BrO3
